2107-01-09 06:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  Cardiogenic shock
   24 Hour Events:
   Pt. was weaned off levophed, and increased w/ dopamine to 7.5mcg/kg/hr
   w/ MAPs > 70.  Pt. was also weaned off PEEP to 5cm and FiO2 to 60%
   o/n.  Pt. is sedated and arousable, denies pain and follows simple
   commands.  BCx and Urine Cx were obtained.
   This am, pt was found to be agitated, biting on ETT, with eventual
   desaturations to 80s and self extubation.  He required immediate
   re-intuabation and received atomidate, succinylcholine and additional
   doses of fentanyl and Midazolam.
   Allergies:
   Optiray 350 (Intraven.) (Ioversol)
   Shortness of br
   Shellfish Derived
   Hives; increase
   Last dose of Antibiotics:
   Vancomycin - [**2107-1-8**] 09:31 PM
   Piperacillin - [**2107-1-9**] 06:06 AM
   Infusions:
   Dopamine - 7.5 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2107-1-8**] 06:28 PM
   Fentanyl - [**2107-1-8**] 06:28 PM
   Famotidine (Pepcid) - [**2107-1-8**] 09:30 PM
   Furosemide (Lasix) - [**2107-1-9**] 12:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-9**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.9
C (98.4
   HR: 86 (78 - 149) bpm
   BP: 87/64(77) {84/51(-12) - 103/69(88)} mmHg
   RR: 17 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 14 (10 - 26)mmHg
   PAP: (50 mmHg) / (31 mmHg)
   CO/CI (Fick): (5.8 L/min) / (3.3 L/min/m2)
   SvO2: 74%
   Mixed Venous O2% Sat: 67 - 74
   IABP w/ Augmented BPs in 80-90 prior to reintubation.
   Total In:
                                                                  3,046 mL
                                                                    520 mL
   PO:
   TF:
   IVF:
                                                                  2,986 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                    930 mL
                                                                    845 mL
   Urine:
                                                                    430 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,116 mL
                                                                   -325 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.43/39/108/25/1
   Ve: 8.6 L/min
   PaO2 / FiO2: 216
   Physical Examination
   GENERAL:  Intubated and sedated, but arousable and following simple
   commands.
   HEENT: NCAT. Sclera anicteric. Pupils constricted.
   NECK: Difficult to assess JVP with central line in place.
   CARDIAC: RR. no murmurs when off IABP.
   LUNGS: Vented resp were unlabored. Lateral crackles/rales w/ rhonchi
   b/l.  Did not assess posteriorly.
   ABDOMEN: Soft. Large operative scar with staples. Active bile drainage
   from surgical site.
   EXTREMITIES: No c/c/e. No femoral bruits, R arterial line w/ slowly
   oozing blood, new after starting heparin.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   257 K/uL
   9.5 g/dL
   269 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.0 mEq/L
   31 mg/dL
   105 mEq/L
   137 mEq/L
   26.2 %
   15.2 K/uL
        [image002.jpg]
                            [**2107-1-8**]  10:38 AM
                            [**2107-1-8**]  11:09 AM
                            [**2107-1-8**]  12:27 PM
                            [**2107-1-8**]  02:53 PM
                            [**2107-1-8**]  04:13 PM
                            [**2107-1-8**]  07:18 PM
                            [**2107-1-8**]  07:24 PM
                            [**2107-1-8**]  10:09 PM
                            [**2107-1-9**]  01:56 AM
                            [**2107-1-9**]  02:17 AM
   WBC
   22.4
   22.6
   15.2
   Hct
   27.9
   41
   27.4
   26.2
   Plt
   [**Telephone/Fax (3) 7013**]
   Cr
   1.3
   1.2
   1.3
   TropT
   3.13
   5.39
   TCO2
   22
   23
   24
   24
   24
   23
   27
   Glucose
   [**Telephone/Fax (3) 7014**]
   Other labs: PT / PTT / INR:13.6/43.4/1.2, CK / CKMB /
   Troponin-T:1882/108/5.39, ALT / AST:49/189, Alk Phos / T Bili:117/1.9,
   Differential-Neuts:92.3 %, Lymph:4.8 %, Mono:2.7 %, Eos:0.1 %,
   Fibrinogen:593 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL,
   LDH:1228 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   CXR -
   There is again seen diffuse
   airspace opacities throughout both lung fields which have improved
   slightly
   since the previous study. There is no large pleural effusions. A new
   intra-
   aortic balloon pump is identified.
   Assessment and Plan
   52M with HCC, HEP C, OLT, now w/ biliary obstruction, s/p ERCP and
   rouxenY hepatic jejunostomy, presenting with shock, s/p MI and likely
   sepsis.
   .
   # SHOCK.  Echo showed severely depressed EF and severe anterior
   hypo/akinesis with cardiac cath revealing 3VD with LAD and RCA stenting
   performed.  Enzymes peaked at 2260, w/ CKMB at 108 and MBI 5.7.
   Patient continues to be in shock which is likely multifactorial: both
   cardiac (hypotension, wedge in 30s in cath lab, but CI of 2.3) and
   septic (SVR in 700->800 range).   Now off levaphed, and on increased
   dose of dopamine.  Currently on balloon pump with some decrease in
   afterload and mild increase in DBP.  Cardiac contractility impaired
   likely due ot myocardial stunning as well as MI.  Pt. is also ~ 1.8L
   positive o/n, which is contributing to impaired forward flow, CVP is
   14, thus preload should be adequate.
   - Continue with balloon pump
   - Continue w/ dopamine with goal of MAP<65, wean as tolerated by BPs
   - Holding antihypertensives
   - Will start lasix gtt given labile BPs w/ goal UOP of 100-150cc, >
   -1L.
   - Obtain SVR, CI/CO Q8hrs to reassess cardiac function and wean off
   IABP
   - Continue with sepsis work-up as below, and continued Vanco/Zosyn for
   possible HCAP and intra-abdominal infection.
   # ID.  Septic Shock.  Given fevers, hypotension, low SVR, elevated WBC
   (now slightly improved) and ARDS type picture clinically and on XR
   (although can not technically designate as ARDS in setting of elevated
   PCWP), patient likely septic w/ sources ranging from intraabdominal, to
   pulmonary to urinary.  CXR most consistent w/ ARDS, this may be likely
   [**2-27**] aspiration given the rapid time course of events.  Tx for possible
   PNA, although pneumonitis also possible.  Pt also immunosuppressed thus
   also will consider opportunistic infections if no improvement in SVR
   and fevers by tomorrow.  Abdomen is distended and tympanitic, no fluid
   collection on CT.  UA from this AM negative.   Line infection also a
   possibility, as R IJ placed on [**1-5**].
   -          Continue empiric treatment for HCAP w/ vanco/zosyn
   -          Sputum smear and Cx.
   -          Consider pulling R central line if fevers and septic picture
   persists.
   -          Surveillance BCx, f/u current Cx.
   -          Obtain vanco trough tomorrow AM.
   .
   # CORONARIES: 3VD on cardiac cath.  BMS placed to LAD and RCA.  Enzymes
   peaked at 2260, w/ CKMB at 108 and MBI 5.7.   Current CK 1882.
   - Continue Aspirin/plavix
   - Holding beta-blocker and ACEI given shock
   .
   # RHYTHM:  NSR in 80
 90s.
   .
   # RESPIRATORY FAILURE:  Likely [**2-27**] ARDS, vs multifocal PNA vs.
   aspiration pneumonitis.
   - Continue with mechanical ventilation, wean O2 sat
   - Continue with vanc/zosyn for now
   .
   # BILIARY OBSTRUCTION, HCC and Hep C.  Biliary obstruction [**2-27**]
   anastomotic stricture.  Overall LFTs are unchanged, though Tbili is
   decreasing.  Given recent surgical intervention, could be source of
   infection.
   - Trend daily LFTs
   - Surgery following now that in CCU
   - Continue with vanc/zosyn
   .
   # ARF.  Likely [**2-27**] shock/pre-renal state.
   -          Will monitor Cr as will be diuresing.  This may improve as
   CO improves.
   # ANEMIA. HCT 27 was 41 on admission.  Decreased significantly post OR
   on [**1-5**].  Currently stable, likely [**2-27**] dilution and OR losses.
   Currently /w nl O2sat on 60% FiO2.
   - Would  transfuse w/ goal of HCT >=30 given ischemia.
   .
   # S/P TRANSPLANT.  Transplant team following.
   -          Continue cellcept and prograf
   -          F/u tacro level.
   ..
   FEN: NS at 50cc/hr while NPO
   ACCESS: RIJ; PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin gtt for IABP
   -Pain managment fentanyl
   -Bowel regimen
   CODE: Presumed full
   DISPO: CCU

2107-01-10 06:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   52M with history of Hep C and HCC s/p OLT here with biliary
   obstruction, now presenting with ? of cardiogenic vs septic shock s/p
   cath showing 3VD with 2 stents and an intraaortic balloon pump placed
   on dopamine.
   24 Hour Events:
   The patient's levophed was weaned off off two nights ago and his
   dopamine was increased.  He self-extubated himself yesterday am and was
   reintubated after he desated to the 80's.  He was started on a lasix
   gtt (with a goal of [**1-27**] L negative) and has been on a heparin gtt given
   the balloon pump.  He received a dose of 5 mg metolazone overnight and
   his lasix gtt was increased to 15 mg/hr with good response.  His
   balloon pump was advanced slightly yesterday now with better wave
   forms.  Fluconazole was started per transplant surgery.  Patient had an
   abdominal US to evaluate for fluid collection which showed no large
   perihepatic fluid collection and a small right pleural effusion.  He
   woke up from sedation (although the sedation was unchanged) and tried
   to sit up during the day so his sedation was increased and he was
   placed in restraints given his groin lines.  His Hct check in the
   afternoon showed a 3 point Hct drop from 26.2 to 23.1.  We wanted to
   transfuse him a unit of PRBC, however he did not have a blood consent
   on the chart and his health care proxy could not be reached by phone.
   On recheck it was 23.1, so it was decided that as he was stable to
   defer blood transfusion until consent could be received.
   This am the patient had a short episode of hypotension this am so his
   balloon was put to 1:1 (from 1:2) and his lasix gtt was stopped.  His
   dopamine gtt was increased to 10 mcg/kg/min and his BP
s stabilized.
   Allergies:
   Optiray 350 (Intraven.) (Ioversol)
   Shortness of br
   Shellfish Derived
   Hives; increase
   Last dose of Antibiotics:
   Piperacillin - [**2107-1-9**] 06:06 AM
   Vancomycin - [**2107-1-9**] 08:00 AM
   Fluconazole
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 750 units/hour
   Dopamine - 7.5 mcg/Kg/min
   Furosemide (Lasix) - 15 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-1-9**] 09:00 AM
   Other medications:
   Plavix
   ASA
   MMF
   Tacrolimus
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-10**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 71 (64 - 91) bpm
   BP: 88/61(77) {84/45(73) - 99/66(82)} mmHg
   RR: 18 (17 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 13 (12 - 17)mmHg
   PAP: (43 mmHg) / (21 mmHg)
   CO/CI (Fick): (6 L/min) / (3.4 L/min/m2)
   Mixed Venous O2% Sat: 59 - 66
   Total In:
                                                                  2,090 mL
                                                                    455 mL
   PO:
   TF:
   IVF:
                                                                  1,910 mL
                                                                    455 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                  1,335 mL
   Urine:
                                                                  2,460 mL
                                                                  1,335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -370 mL
                                                                   -880 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 161
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.49/39/202/29/6
   Ve: 9.4 L/min
   PaO2 / FiO2: 505
   Physical Examination
   GENERAL:  Middle-aged male lying in bed, Intubated and sedated;
   noarousable.
   HEENT: NCAT. Sclera anicteric. Pupils constricted.
   NECK: Difficult to assess JVP with central line in place.
   CARDIAC: RRR. no murmurs when off IABP.
   LUNGS: Vented resp were unlabored. Coarse breath sounds anteriorly.
   ABDOMEN: Soft. Large operative scar on his LLQ with staples. Active
   bile drainage from surgical site.
   EXTREMITIES: No c/c/e. DP pulses dopplerable b/l.  Feet warm b/l.
   Groin: Right groin has an a-line with slow oozing present.  The left
   groin has the aortic balloon pump in place.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   206 K/uL
   8.4 g/dL
   224 mg/dL
   1.6 mg/dL
   29 mEq/L
   3.5 mEq/L
   38 mg/dL
   104 mEq/L
   141 mEq/L
   23.7 %
   14.3 K/uL
        [image002.jpg]
                            [**2107-1-9**]  02:17 AM
                            [**2107-1-9**]  09:47 AM
                            [**2107-1-9**]  11:01 AM
                            [**2107-1-9**]  03:54 PM
                            [**2107-1-9**]  04:11 PM
                            [**2107-1-9**]  05:23 PM
                            [**2107-1-9**]  10:38 PM
                            [**2107-1-9**]  11:00 PM
                            [**2107-1-10**]  04:33 AM
                            [**2107-1-10**]  04:51 AM
   WBC
   15.3
   14.3
   Hct
   23.1
   23.1
   23.4
   23.7
   Plt
   196
   206
   Cr
   1.3
   1.6
   TCO2
   27
   26
   28
   28
   31
   Glucose
   200
   197
   202
   224
   Other labs: PT / PTT / INR:13.0/66.8/1.1, CK / CKMB /
   Troponin-T:478/20/5.39, ALT / AST:38/70, Alk Phos / T Bili:104/1.4,
   Differential-Neuts:92.3 %, Lymph:4.8 %, Mono:2.7 %, Eos:0.1 %,
   Fibrinogen:593 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.8 g/dL,
   LDH:1237 IU/L, Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Abd US
 no large perihepatic collection.
   Assessment and Plan
   52M with HCC, HEP C, OLT, now w/ biliary obstruction, s/p ERCP and
   rouxenY hepatic jejunostomy, presenting with shock, s/p possible MI and
   likely sepsis.
   # SHOCK.  Echo showed severely depressed EF and severe anterior
   hypo/akinesis with cardiac cath revealing 3VD with LAD and RCA stenting
   performed.  Enzymes peaked at 2260, w/ CKMB at 108 and MBI 5.7.   The
   patient continues on dopamine.  Currently on balloon pump with some
   decrease in afterload and mild increase in DBP.  As the patient
s CI
   continues to be normal, this is less likely cardiogenic shock and more
   likely septic shock (SVR is low in the 800
s).  Cardiac contractility
   impaired likely due to myocardial stunning from recent cardiac injury.
   - Will work to wean the balloon pump off and remove it today.
   - Continue dopamine gtt with goal of MAP >60, wean as tolerated by BPs
   - Holding antihypertensives
   - Continue with sepsis work-up as below, and continued Vanco/Zosyn for
   possible HCAP and intra-abdominal infection as well as fluconazole
   given his immunocompromised status.
   - Will obtain a TTE to evaluate for interval change of his cardiac
   function.
   # ID.  Possible septic Shock.  The patient was afebrile yesterday, but
   given previous fevers, hypotension, low SVR, elevated WBC (now slightly
   improved), the patient is likely septic w/ sources ranging from
   intraabdominal, to pulmonary to urinary.  CXR this am looked improved
   after diuresis for a net negative 1 L yesterday.  Tx for possible PNA,
   although pneumonitis also possible.  Pt also immunosuppressed thus also
   will consider opportunistic infections if no improvement in SVR and
   fevers by tomorrow.  Abdomen is distended and tympanitic, no fluid
   collection on CT or on US.  UA was negative.   Culture data has been
   NGTD.  Line infection also a possibility.
   - Continue empiric treatment for HCAP w/ vanco/zosyn and coverage for
   fungi with fluconazole.
   - Sputum smear and Cx.
   - After the patient is weaned off the balloon pump and the heparin gtt
   is stopped, will pull his swan and arterial lines as these are possible
   sources of infection.  Will leave the RIJ for now, but can consider
   placing a new central line t/m and pulling that if he remains
   hypotensive.
   - Surveillance BCx, f/u current Cx.
   - F/u pending vanc level
   # CORONARIES: The patient was found to have 3VD on cardiac cath.  BMS
   placed to LAD and RCA.  Enzymes peaked at 2260, w/ CKMB at 108 and MBI
   5.7.
   - Continue Aspirin/plavix
   - Holding beta-blocker and ACEI given shock
   - Will obtain another TTE to evaluate for interval change in his
   cardiac function.
   # ANEMIA. HCT dropped yesterday to 23.1 (from 26.2).  It remained
   stable at 23.1 overnight and increased to 23.7 this am.  Overnight the
   team wanted to transfuse him, however he did not have a blood consent
   on the chart and his health care proxy was not answering her phone.  As
   his Hct remained stable, it was decided to hold off on transfusions.
   He has many reasons for his Hct drop including his oozing right groin,
   the intraaortic balloon pump (causes some hemolysis), and frequent
   blood draws.
   -  Given his recent cardiac injury, will transfuse with a goal of Hct >
   30.
   -  This am will transfuse 2 units PRBC and recheck a post transfusion
   Hct.
   # RESPIRATORY FAILURE:  Differential includes pulmonary edema vs  ARDS
   vs multifocal PNA vs. aspiration pneumonitis.  CXR shows stable diffuse
   airway opacities.
   - Continue with mechanical ventilation, wean O2 sat
   - Continue with vanc/zosyn/fluconazole for now
   - Will restart the lasix gtt with a goal of keeping him even today as
   his CXR looks slightly drier.  Will increase the gtt when giving the 2
   units of PRBC as below.
   # BILIARY OBSTRUCTION, HCC and Hep C.  Biliary obstruction [**2-27**]
   anastomotic stricture.  Overall LFTs are slightly trending downward.
   Given recent surgical intervention, could be source of infection.
   - Trend daily LFTs
   - F/U transplant surgery recs.
   - Continue with vanc/zosyn/fluconazole given bile leak in his abdomen
   as a source of infection.
   # ARF.  The patient
s Cr increased to 1.6 from 1.3 today.  His ARF is
   likely secondary to his episodes of hypotension and also may be
   partially related to the balloon pump as it does not augment blood flow
   distally.
   -  Will manage his hypotension as above and try to remove the balloon
   pump today.
   -  Continue to trend Cr and consider further workup if his Cr doesn
   improve with resolution of his hypotension.
   # S/P OLT TRANSPLANT.  Transplant team following.
   - Continue cellcept and prograf.
   - F/u tacro level.
   # RHYTHM:  NSR in 80
 90s.  Continue to monitor on tele.
   FEN: NS at 50cc/hr while NPO
   ACCESS: RIJ; right groin A-line, left groin intraaortic balloon pump,
   PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin gtt for IABP
   -Pain management with fentanyl
   -Bowel regimen
   CODE: full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2107-1-8**] 10:30 AM
   Arterial Line - [**2107-1-8**] 10:54 AM
   18 Gauge - [**2107-1-8**] 10:56 AM
   IABP line - [**2107-1-8**] 06:22 PM
   PA Catheter - [**2107-1-8**] 06:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2107-01-12 06:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Extubated successfully in AM.  Off levophed at noon, BPs maintained
   well until 6pm, when SBP < 80.  I/Os were even, but NPO.   Gave 250cc
   NS bolus as CVP 6 at the time, BP responded to 110s.  Cx data negative
   to date, Vanco level 21, but Vanc dosing 1g [**Hospital1 **].  A-line removed as was
   cracked.   Per Transplant, holding Tacrolimus, will PTC tomorrow, NP
   past MN.  Transplant wanted to keep IJ for at least one more day.
   Patient was agitated early in am, was oriented x1, received zydis 5mg
   x1 w/ good effect.  On exam has myoclonic jerks, asterexis, and was
   later A&Ox0, w/ loss of immediate recall.  Started lactulose 30mg Q4h
   PO prn for 3-4BMs, NPO for PTC, so only received 2 doses, nonetheless,
   stooled Q1-2hrs, guiac positive.  Received an additional IVF bolus 250
   for SBP maintenance w/ BMs.
   Allergies:
   Optiray 350 (Intraven.) (Ioversol)
   Shortness of br
   Shellfish Derived
   Hives; increase
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2107-1-10**] 08:00 AM
   Fluconazole - [**2107-1-11**] 06:01 PM
   Vancomycin - [**2107-1-11**] 08:16 PM
   Piperacillin - [**2107-1-11**] 10:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-1-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-1-11**] 09:31 AM
   Heparin Sodium (Prophylaxis) - [**2107-1-11**] 04:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-12**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 96 (77 - 101) bpm
   BP: 127/78(89) {98/56(70) - 127/92(98)} mmHg
   RR: 24 (10 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 8 (4 - 13)mmHg
   Total In:
                                                                  1,656 mL
                                                                    162 mL
   PO:
   TF:
   IVF:
                                                                  1,564 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    815 mL
   Urine:
                                                                  1,395 mL
                                                                    815 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    261 mL
                                                                   -653 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 758 (758 - 758) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.35/43/126/23/-1
   Ve: 6.8 L/min
   PaO2 / FiO2: 315
   Physical Examination
   GENERAL:  Middle-aged male sitting in bed, agitated.
   HEENT: NCAT. Sclera anicteric. Pupils constricted.
   NECK: Difficult to assess JVP with central line in place.
   CARDIAC: RRR. No murmurs, rubs, gallops.  Widely split S2.
   LUNGS: Vented resp were unlabored. Coarse breath sounds anteriorly.
   ABDOMEN: Soft. Large operative scar on his LLQ with staples. Active
   bile drainage from surgical site.
   EXTREMITIES: No c/c/e. DP pulses 1+.  Feet warm b/l.
   Groin: No hematoma on R or L groin site.  2+ femoral pulses.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   145 K/uL
   9.9 g/dL
   147 mg/dL
   1.2 mg/dL
   23 mEq/L
   3.4 mEq/L
   23 mg/dL
   113 mEq/L
   146 mEq/L
   27.4 %
   9.2 K/uL
        [image002.jpg]
                            [**2107-1-10**]  11:31 AM
                            [**2107-1-10**]  05:14 PM
                            [**2107-1-10**]  06:15 PM
                            [**2107-1-10**]  06:19 PM
                            [**2107-1-10**]  10:41 PM
                            [**2107-1-11**]  05:11 AM
                            [**2107-1-11**]  05:28 AM
                            [**2107-1-11**]  06:11 AM
                            [**2107-1-11**]  11:30 AM
                            [**2107-1-12**]  05:04 AM
   WBC
   14.2
   9.2
   Hct
   28.0
   28.0
   33
   29.0
   27.4
   Plt
   158
   145
   Cr
   1.4
   1.2
   TCO2
   31
   27
   29
   26
   27
   25
   Glucose
   98
   147
   Other labs: PT / PTT / INR:13.7/32.5/1.2, CK / CKMB /
   Troponin-T:478/20/5.39,
   ALT / AST:26/36, Alk Phos / T Bili:109/1.8,
   Differential-Neuts:92.3 %, Lymph:4.8 %, Mono:2.7 %, Eos:0.1 %,
   Fibrinogen:593 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL,
   LDH:730 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   52M with HCC, HEP C, OLT, now w/ biliary obstruction, s/p ERCP and
   rouxenY hepatic jejunostomy, presenting with shock, s/p possible MI and
   likely sepsis.
   # Sepsis: Likely etiology of continued hypotension and prior fevers.
   Echo shows improved EF of 50% and this is less likely to be
   cardiogenic.   IABP removed yesterday successfully.  The patient has
   been afebrile X 2 days, but given previous fevers, hypotension, low
   SVR, elevated WBC (now slightly improved), the patient is likely septic
   w/ sources ranging from intraabdominal, to pulmonary to urinary.  Tx
   for possible PNA, although pneumonitis also possible.  Pt also
   immunosuppressed thus also will consider opportunistic infections if no
   improvement in SVR and fevers by tomorrow.  Abdomen is distended and
   tympanitic, no fluid collection on CT or on US.  UA was negative.
   Culture data has been NGTD.  Lines removed yesterday.  New a-line
   placed.
   - continue Levophed as necessary with goal to wean today
   - Holding antihypertensives
   - Continue Vanco/Zosyn for possible HCAP and intra-abdominal infection
   as well as fluconazole given his immunosuppression
   Vanc day #4 of 10 (ends [**1-18**])
   Zosyn day #4 of 10 (ends [**1-18**])
   Fluconazole day #3 of 10 (ends [**1-19**])
   - will attempt to wean pressors to pull R IJ today to reduce other
   potential sources
   # CORONARIES: The patient was found to have 3VD on cardiac cath.  BMS
   placed to LAD and RCA.  Enzymes peaked at 2260, w/ CKMB at 108 and MBI
   5.7.
   - Continue Aspirin/plavix
   - Holding beta-blocker and ACEI given shock
   # ANEMIA. HCT dropped yesterday to 23.1 and patient received 2 units of
   PRBCs.  PM HCT returned at 33.  No clear source of bleeding.
   -  continue to trend HCT
   # RESPIRATORY FAILURE:  Differential includes pulmonary edema vs  ARDS
   vs multifocal PNA vs. aspiration pneumonitis.  CXR shows stable diffuse
   airway opacities. Vent settings weaned to [**5-31**] 40% FiO2 with RSBIs of
   29.  Per surgery, no plans to return to the OR immediately.
   - will attempt extubation today, wean sedation
   - Continue with vanc/zosyn/fluconazole for now
   # BILIARY OBSTRUCTION, HCC and Hep C.  Biliary obstruction [**2-27**]
   anastomotic stricture.  Overall LFTs are slightly trending downward.
   Given recent surgical intervention, could be source of infection.
   - Trend daily LFTs
   - F/U transplant surgery recs.
   - Continue with vanc/zosyn/fluconazole given bile leak in his abdomen
   as a source of infection.
   # ARF.  Improved to 1.4 today, down from 1.6.  His ARF is likely
   secondary to his episodes of hypotension and also may be partially
   related to the balloon pump as it does not augment blood flow distally.
   -  Continue to trend.
   # S/P OLT TRANSPLANT.  Transplant team following.  Tacro held yesterday
   for level of 15.0.
   - Continue cellcept, holding Tacrolimus
   - F/u daily tacro level.
   # RHYTHM:  NSR in 80
 90s.  Continue to monitor on tele.
   FEN: NPO for extubation
   ACCESS: RIJ; R radial A-line, PIV's
   PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with fentanyl
   -Bowel regimen
   CODE: full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2107-1-8**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: